US06043242
5. 6-{3-[3-Methyl-2-(5-thiazol-2-yl-1H-benzimidazol-2-ylsulfanylmethyl)pyridin-4-yl -sulfanyl]-propyl-sulfanyl}3-nitroimidazo[1,2-b]pyridazine hydrochloride
0.77 g (1.87 mmol) of 6-[3-(2-chloromethyl-3-methylpyridin-4-ylsulfanyl)propylsulfanyl]-3-nitro-imidazo[1,2-b]pyridazine and 0.35 g (1.5 mmol) of 6-thiazol-2-yl-1H-benzimidazole-2-thiol in 25 ml of isopropanol and 20 ml of dimethylformamide are reacted as described in Example 2. 0.60 g (62%) of the title compound of m.p. 232-234° C. is isolated.

reactant | 6-[3-(2-chloromethyl-3-methylpyridin-4-ylsulfanyl)propylsulfanyl]-3-nitro-imidazo[1,2-b]pyridazine | 1.87 mmol, 0.77 g | ClCC1=NC=CC(=C1C)SCCCSC=1C=CC=2N(N1)C(=CN2)[N+](=O)[O-] | C16H16ClN5O2S2
reactant | 6-thiazol-2-yl-1H-benzimidazole-2-thiol | 1.5 mmol, 0.35 g | S1C(=NC=C1)C=1C=CC2=C(NC(=N2)S)C1 | C10H7N3S2
solvent | isopropanol | 25 ml | C(C)(C)O | C3H8O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 6-{3-[3-Methyl-2-(5-thiazol-2-yl-1H-benzimidazol-2-ylsulfanylmethyl)pyridin-4-yl -sulfanyl]-propyl-sulfanyl}3-nitroimidazo[1,2-b]pyridazine hydrochloride | 0.60 g, 62% | Cl.CC=1C(=NC=CC1SCCCSC=1C=CC=2N(N1)C(=CN2)[N+](=O)[O-])CSC2=NC1=C(N2)C=CC(=C1)C=1SC=CN1 | InChI=1S/C26H22N8O2S4.ClH/c1-16-20(15-40-26-30-18-4-3-17(13-19(18)31-26)25-28-9-12-39-25)27-8-7-21(16)37-10-2-11-38-23-6-5-22-29-14-24(34(35)36)33(22)32-23;/h3-9,12-14H,2,10-11,15H2,1H3,(H,30,31);1H
